US07846960B2
Trifluoro-methanesulfonic Acid 2-benzoyl-4-methyl-phenyl Ester
Triethylamine (3.56 g, 35 mmol) is added to a solution of (2-Hydroxy-5-methyl-phenyl)-phenyl-methanone (5.0 g, 23.5 mmol) in dichloromethane (40 mL). The mixture is cooled to 0° C. and trifluoromethane sulfonic anhydride (7.97 g, 28.2 mmol) is added dropwise. The mixture is stirred at 0° C. for 1.0 h, quenched with sat. NaHCO3 (20 mL), diluted with dichloromethane (30 mL). The layers are separated and the organic layer is washed with water (30 mL) and brine (30 mL), dried (Na2SO4), and concentrated in vacuo. The residue is purified via column chromatography (SiO2, gradient EtOAc/Hex) to give the title compound (8.18 g, 100%) as an oil. LC-ES/MS: 345.0 (M+1), 362.0 (M+18).

reactant | Triethylamine | 35 mmol, 3.56 g | C(C)N(CC)CC | C6H15N
reactant | (2-Hydroxy-5-methyl-phenyl)-phenyl-methanone | 23.5 mmol, 5.0 g | OC1=C(C=C(C=C1)C)C(=O)C1=CC=CC=C1 | C14H12O2
reactant | trifluoromethane sulfonic anhydride | 28.2 mmol, 7.97 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | Trifluoro-methanesulfonic Acid 2-benzoyl-4-methyl-phenyl Ester | 8.18 g, 100% | C(C1=CC=CC=C1)(=O)C1=C(C=CC(=C1)C)OS(=O)(=O)C(F)(F)F | C15H11F3O4S
